US06002008
A solution of 1.65 grams (0.01 mole) of 4-bromo crotonic acid (Giza Braun, J. Am. Chem. Soc. 52, 3167 1930) in 15 ml of dichloromethane was treated with 1.74 ml (0.02 moles) of oxalyl chloride and 1 drop of N,N-dimethylformamide. After an hour the solvents were removed on the rotary evaporator. The residual oil was taken up in ml of tetrahydrofuran, and 3.39 grams of 6-Amino-4-(3-bromo-phenylamino)-quinoline-3-carbonitrile in 25 ml of tetrahydrofuran was added dropwise. This was followed by the dropwise addition of 1.92 ml (0.011 moles) of diisopropylethylamine. After the addition of 25 ml of water and 50 ml of ethyl acetate, the layers were separated. The organic layer was dried over anhydrous sodium sulfate, and taken to a solid in vacuo. This solid was digested for an hour with refluxing ethyl acetate then filtered from the ethyl acetate while still hot. Thus was obtained 3.31 grams (68%) of 4-bromo-but-2-enoic acid [4-(3-bromo-phenylamino)-3-cyano-quinolin-6-yl]-amide.

reactant | 4-bromo crotonic acid | 0.01 mole, 1.65 grams | BrC/C=C/C(=O)O | C4H5BrO2
reactant | oxalyl chloride | 0.02 moles, 1.74 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | 6-Amino-4-(3-bromo-phenylamino)-quinoline-3-carbonitrile | 3.39 grams | NC=1C=C2C(=C(C=NC2=CC1)C#N)NC1=CC(=CC=C1)Br | C16H11BrN4
reactant | diisopropylethylamine | 0.011 moles, 1.92 ml | C(C)(C)N(CC)C(C)C | C8H19N
solvent | dichloromethane | 15 ml | ClCCl | CH2Cl2
catalyst | N,N-dimethylformamide | 1 drop | CN(C=O)C | C3H7NO
solvent | tetrahydrofuran | 25 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | ml | O1CCCC1 | C4H8O
solvent | ethyl acetate | 50 ml | C(C)(=O)OCC | C4H8O2
solvent | water | 25 ml | O | H2O
product | 4-bromo-but-2-enoic acid [4-(3-bromo-phenylamino)-3-cyano-quinolin-6-yl]-amide | 3.31 grams, 68% | BrC=1C=C(C=CC1)NC1=C(C=NC2=CC=C(C=C12)NC(C=CCBr)=O)C#N | C20H14Br2N4O
